US05726172
The 2-isopropyl-3-carboethoxypyridine (400 mg, 2 mmol) in distilled THF (50 mL) under nitrogen was cooled to 0° C. and lithium aluminum hydride (1M in THF) (2.07 mL) was added dropwise. The reaction was stirred for 18 hours at room temperature then cooled to 0° C. and quenched with EtOAc (100 μL), then H2O (100 μL), then 15% NaOH (100 μL), followed by H2O (300 μL). The mixture was filtered and the solvent was removed under reduced pressure. Toluene was added and the solvent was removed under reduced pressure to give the desired 2-isopropyl-3-hydroxymethylpyridine.

reactant | 2-isopropyl-3-carboethoxypyridine | 2 mmol, 400 mg | C(C)(C)C1=NC=CC=C1C(=O)OCC | C11H15NO2
reactant | lithium aluminum hydride | 1M, 2.07 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-isopropyl-3-hydroxymethylpyridine | C(C)(C)C1=NC=CC=C1CO | C9H13NO
